US09062028B2
Step C. Methyl 4-((2,3-dimethylphenyl)amino)butanoate
To a partial suspension of methyl 4-(2,3-dimethylphenylamino)-4-oxobutanoate (0.20 g, 0.85 mmol) in THF (8.5 mL) at 0° C. was added 1 M borane tetrahydrofuran complex (2.55 mL, 2.55 mmol) over 2 min. The reaction was allowed to warm to room temperature and stirred overnight. The reaction was cautiously quenched with 50% saturated ammonium chloride, and then excess 50% saturated ammonium chloride and DCM were added. The resulting mixture was stirred vigorously for 15 min. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated. The residue was purified by preparative HPLC (PHENOMENEX® Axia Luna column, 5μ, C18, 30×75 mm; 15 min gradient from 100% A: 0% B to 0% A:100% B and 3 min 100% B (A=90% H2O/10% MeCN+0.1% TFA); (B=90% MeCN/10% H2O+0.1% TFA); detection at 220 nm) to afford the title compound (85 mg, 45% yield). LCMS, [M+H]+=222.1.

reactant | methyl 4-(2,3-dimethylphenylamino)-4-oxobutanoate | 0.85 mmol, 0.20 g | CC1=C(C=CC=C1C)NC(CCC(=O)OC)=O | C13H17NO3
solvent | THF | 8.5 mL | C1CCOC1 | C4H8O
product | Methyl 4-((2,3-dimethylphenyl)amino)butanoate | 85 mg, 45% yield | CC1=C(C=CC=C1C)NCCCC(=O)OC | C13H19NO2
